US07915424B2
3-Bromo-5-(4-fluorophenylethynyl)-pyridine hydrochloride
Add 1 M hydrogen chloride in diethyl ether (1.1 eq) to 3-bromo-5-(4-fluorophenylethynyl)-pyridine, from PREPARATION 24, in diethyl ether and stir for 2 h. Filter and dry the collected solid under high vacuum to give the title compound.

reactant | hydrogen chloride | 1 M | Cl | ClH
reactant | 3-bromo-5-(4-fluorophenylethynyl)-pyridine | BrC=1C=NC=C(C1)C#CC1=CC=C(C=C1)F | C13H7BrFN
solvent | diethyl ether | C(C)OCC | C4H10O
solvent | diethyl ether | 1.1 eq | C(C)OCC | C4H10O
product | 3-Bromo-5-(4-fluorophenylethynyl)-pyridine hydrochloride | Cl.BrC=1C=NC=C(C1)C#CC1=CC=C(C=C1)F | InChI=1S/C13H7BrFN.ClH/c14-12-7-11(8-16-9-12)2-1-10-3-5-13(15)6-4-10;/h3-9H;1H
